US07527754B2
Potassium t-butoxide (68.8 g) was weighed into a reaction flask equipped with a mechanical stirrer, placed under a nitrogen atmosphere and 700 mL of toluene was added followed by 4,4′-difluorobenzophenone (100 g). The reaction mixture was stirred mechanically and heated to 70° C. A solution of dimethyl succinate (80 g) in 100 mL of toluene was added to the reaction mixture over a 60 minute period. The reaction mixture was heated at 70° C. for 4 hours. After cooling to room temperature, the reaction mixture was poured into 500 mL of water and the toluene layer discarded. The aqueous layer was extracted with diethyl ether (1×400 mL) to remove the neutral products, and then acidified the aqueous layer with concentrated HCl. A brownish-yellow oily solid was obtained from the aqueous layer, and was extracted with 3×300 mL of ethyl acetate. The organic layers were combined, washed with saturated NaCl solution (1×500 mL) and dried over anhydrous sodium sulfate. Removal of the solvent by rotary evaporation yielded 122 g of 4,4-di(4-fluorophenyl))-3-methoxycarbonyl-3-butenoic acid as a brownish oily solid. This material was not purified further but was used directly in the next step.

reactant | Potassium t-butoxide | 68.8 g | CC(C)([O-])C.[K+]
reactant | 4,4′-difluorobenzophenone | 100 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | dimethyl succinate | 80 g | C(CCC(=O)OC)(=O)OC | C6H10O4
reactant | water | 500 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methoxycarbonyl-3-butenoic acid | COC(=O)C(CC(=O)O)=C | C6H8O4
